US05434148
3-{9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-1-phenyl-2,3, 4,5-tetrahydro-1-benzoazepin-2(1H)-one
In 15 ml of dimethylformamide were dissolved 0.252 g of 3-amino-1-phenyl-2,3,4,5-tetrahydro-1-benzoazepin-2(1H)-one, 0.127 g of 1-hydroxybenzotriazole, 0.223 g of 3-carboxy-β-carboline and 0.2 g of 1-ethyl-3-(3'-dimethylaminopropyl)-carbodiimide hydrochloride and 0.5 ml of triethylamine was added to the solution, and the mixture was stirred at room temperature for one day. After the solvent was removed under reduced pressure, a 10% aqueous citric acid and chloroform were added to the residue and the mixture was stirred. Thereafter, the chloroform layer was separated, washed with a 10% sodium hydroxide aqueous solution and then with water, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and ethyl acetate was added to the residue. The precipitates were collected by filtration to obtain 0.312 g of the title compound as crystals. Melting point: 302° to 304° C., IR (Nujol) (cm-1): 3360, 3290, 1730, 1670, 1650, 1625, MS (m/z): 446 (M+), 264 (base)

reactant | 3-amino-1-phenyl-2,3,4,5-tetrahydro-1-benzoazepin-2(1H)-one | 0.252 g | NC1C(N(C2=C(CC1)C=CC=C2)C2=CC=CC=C2)=O | C16H16N2O
reactant | 1-hydroxybenzotriazole | 0.127 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-carboxy-β-carboline | 0.223 g | C(=O)(O)C=1N=CC=2NC3=CC=CC=C3C2C1 | C12H8N2O2
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)-carbodiimide hydrochloride | 0.2 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 3-{9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-1-phenyl-2,3, 4,5-tetrahydro-1-benzoazepin-2(1H)-one | 0.312 g | C1=NC(=CC2=C1NC1=CC=CC=C21)C(=O)C2(C(N(C1=C(CC2)C=CC=C1)C1=CC=CC=C1)=O)N | C28H22N4O2
